US04478842
To a solution of Collins Reagent prepared with chromium trioxide (5.6 g) and pyridine (8.86 g, 112 mmol) in dichloromethane (150 ml) at 0°-5° under a nitrogen atmosphere is added all at once 1.8 g of 1-(6-hydroxyhexyl)-3-methyl-2-(3-pyridyl)-indole in dichloromethane (15 ml). The mixture is stirred for an additional 25 minutes, then filtered through celite. The filtrate is then passed through a silica gel column. The product is eluted from the silica gel with a 1:1 mixture of ethyl acetate:dichloromethane (500 ml). Concentration in vacuo yields the desired 1-(5-formylpentyl)-2-(3-pyridyl)-3-methylindole as a pale yellow oil; NMR (CDCl3) δ9.7 (t, 1H); IR (neat) 2710, 1720 cm-1.

reactant | Collins Reagent | O=[Cr](=O)=O.C1=NC=CC=C1.C2=NC=CC=C2
reactant | pyridine | 112 mmol, 8.86 g | N1=CC=CC=C1 | C5H5N
reactant | 1-(6-hydroxyhexyl)-3-methyl-2-(3-pyridyl)-indole | 1.8 g | OCCCCCCN1C(=C(C2=CC=CC=C12)C)C=1C=NC=CC1 | C20H24N2O
solvent | dichloromethane | 150 ml | ClCCl | CH2Cl2
solvent | dichloromethane | 15 ml | ClCCl | CH2Cl2
catalyst | chromium trioxide | 5.6 g | [O-2].[O-2].[O-2].[Cr+6]
product | 1-(5-formylpentyl)-2-(3-pyridyl)-3-methylindole | C(=O)CCCCCN1C(=C(C2=CC=CC=C12)C)C=1C=NC=CC1 | C20H22N2O
